US08486979B2
5-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 2,2-difluorobenzo[d][1,3]dioxole-5-carboxylic acid (Aldrich) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.66 (ddd, J=8.1, 4.8, 1.0 Hz, 1 H), 7.73 (d, J=8.5 Hz, 1 H), 8.14 (dd, J=8.5, 1.7 Hz, 1 H), 8.25 (d, J=1.7 Hz, 1 H), 8.44 (dt, J=8.2, 1.9, 1.7 Hz, 1 H), 8.82 (dd, J=4.7, 1.7 Hz, 1 H), 9.25 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 304 (M+H)+.

reactant | 2,2-difluorobenzo[d][1,3]dioxole-5-carboxylic acid | FC1(OC2=C(O1)C=CC(=C2)C(=O)O)F | C8H4F2O4
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | FC1(OC2=C(O1)C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2)F | C14H7F2N3O3
